US09085540B2
A mixture of 5-{[(1R,2S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)cyclopentyl]oxy}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (322 mg), hydrazine monohydrate (99 mg), tetrahydrofuran (6.44 mL), and ethanol (6.44 mL) was stirred at 80° C. overnight. The insoluble matter was separated by filtration and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH2 type: eluent; chloroform:methanol=99:1-97:3) to obtain 5-{[(1R,2S)-2-aminocyclopentyl]oxy}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (117 mg) as a pale yellow solid.

reactant | 5-{[(1R,2S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)cyclopentyl]oxy}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 322 mg | O=C1N(C(C2=CC=CC=C12)=O)[C@@H]1[C@@H](CCC1)OC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C36H44N8O4
reactant | hydrazine monohydrate | 99 mg | O.NN
reactant | tetrahydrofuran | 6.44 mL | O1CCCC1 | C4H8O
solvent | ethanol | 6.44 mL | C(C)O | C2H6O
product | 5-{[(1R,2S)-2-aminocyclopentyl]oxy}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 117 mg | N[C@@H]1[C@@H](CCC1)OC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C28H42N8O2
